US07465815B2
(4-Bromo-3-(4-isopropylphenyl)-6,7-dimethyl-2,3-dihydro-1-benzofuran-5-yl)amine
To a solution of 3-(4-isopropylphenyl)-6,7-dimethyl-2,3-dihydro-1-benzofuran-5-amine synthesized in Reference Example 31 (5.62 g, 21.1 mmol) in acetonitrile (60 mL), was added N-bromosuccinimide (3.76 g, 21.1 mmol) at −20° C., and the mixture was stirred at the same temperature for 10 minutes. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 0.90 g (yield 34%) of the title compound. Melting point: 191-193° C. (hexane-ethyl acetate).

reactant | 3-(4-isopropylphenyl)-6,7-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1COC2=C1C=C(C(=C2C)C)N | C19H23NO
reactant | N-bromosuccinimide | 21.1 mmol, 3.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (4-Bromo-3-(4-isopropylphenyl)-6,7-dimethyl-2,3-dihydro-1-benzofuran-5-yl)amine | 0.90 g, yield 34% | BrC1=C(C(=C(C2=C1C(CO2)C2=CC=C(C=C2)C(C)C)C)C)N | C19H22BrNO
